US04219657
(E) 7-chlorodibenzothiophene-3-carboxylic acid potassium salt
A solution of 4.1 g. of potassium hydroxide (85%) in 100 ml. of alcohol was added to a solution of 18.1 g. of 7-chlorodibenzothiophene-3-carboxylic acid ethyl ester in 450 ml. of warm ethanol. The combined solutions were stirred and refluxed for 8 hours. After cooling to room temperature, the mixture was filtered to give 16.5 g. of the potassium salt.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-chlorodibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC2=C(SC3=C2C=CC(=C3)Cl)C1 | C15H11ClO2S
reactant | potassium | [K] | K
solvent | ethanol | C(C)O | C2H6O
product | 7-chlorodibenzothiophene-3-carboxylic acid potassium salt | [K+].ClC1=CC2=C(C3=C(S2)C=C(C=C3)C(=O)[O-])C=C1 | InChI=1S/C13H7ClO2S.K/c14-8-2-4-10-9-3-1-7(13(15)16)5-11(9)17-12(10)6-8;/h1-6H,(H,15,16);/q;+1/p-1
